US07459562B2
E) 1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(3-hydroxyphenyl)acetyl)urea
To a solution of 1-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(3-(benzyloxy)phenyl)acetyl)urea (150 mg, 0.31 mmol) in a mixture of 5 mL of EtOAc and 3 mL of MeOH was added 10% Pd/C (200 mg). The suspension was stirred under H2 atmosphere for 1 h. Filtration, followed by concentration, provided the title compound (77 mg, 63%). 1H NMR (DMSO-d6) δ 10.95 (s, 1H), 10.54 (s, 1H), 9.35 (s, 1H), 7.74 (d, 1H, J=6.0 Hz), 7.68 (dd, 1H, J=13.0, 2.0 Hz), 7.30 (dd, 1H, J=9.0, 1.1 Hz), 7.23 (t, 1H, J=9.0 Hz), 7.07 (t, 1H, J=8.0 Hz), 6.69 (s, 1H), 6.68 (d, 1H, J=7.0 Hz), 6.62 (dd, 1H, J=7.0, 2.0 Hz), 6.10 (dd, 1H, J=6.0, 2.0 Hz), 5.90 (s, 2H), 5.73 (d, 1H, J=2.0 Hz), 3.27 (s, 2H); MS(ESI+) m/z 397 (M+H)+.

reactant | 1-(4-(2-aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(3-(benzyloxy)phenyl)acetyl)urea | 0.31 mmol, 150 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O)F | C27H23FN4O4
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | MeOH | 3 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 1-(4-(2-Aminopyridin-4-yloxy)-3-fluorophenyl)-3-(2-(3-hydroxyphenyl)acetyl)urea | 77 mg, 63% | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC(=CC=C1)O)=O)F | C20H17FN4O4
